US09290496B2
Preparation 2: Preparation of 9-(tert-butyl)-2,6-dichloro-9H-purine
To a suspension of 2,6-dichloro-9H-purine (8.00 g, 40 mmol, 1.00 eq) and Na2SO4 (96.2 g, 677 mmol, 16.0 eq) in tert-butanol (380 mL) was added concentrated H2SO4 (11.3 mL, 211 mmol, 5 eq). The reaction mixture was heated at 120° C. with vigorous stirring under a reflux condenser [Caution: Gas evolution]. During the following 10 hr, additional H2SO4 (26 mL), Na2SO4 (75 g), and tert-butanol (350 mL) were added to the reaction mixture in several portions. After a further 6 hr of heating, the reaction mixture was cooled to ambient temperature, quenched with NaHCO3(s) added portionwise [Caution: Gas evolution], and diluted with water (300 mL) and EtOAc (300 mL). The layers were separated and the aqueous layer was further extracted with EtOAc (2×300 mL). The combined organics were washed with sat. aq. NaHCO3 and brine, dried (Na2SO4), and concentrated under reduced pressure. The crude reaction mixture was purified via flash chromatography eluting with a gradient of 0-50% EtOAc in heptane to give the title compound (4.09 g, 40% yield) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.73 (s, 1H) 1.73 (s, 9H). m/z (APCI+) for C9H10Cl2N4 245.1/247.1 (M+H)+.

reactant | 2,6-dichloro-9H-purine | 40 mmol, 8.00 g, 1.00 eq | ClC1=NC(=C2N=CNC2=N1)Cl | C5H2Cl2N4
reactant | Na2SO4 | 677 mmol, 96.2 g, 16.0 eq | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | H2SO4 | 211 mmol, 11.3 mL, 5 eq | OS(=O)(=O)O | H2O4S
reactant | H2SO4 | 26 mL | OS(=O)(=O)O | H2O4S
reactant | Na2SO4 | 75 g | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | tert-butanol | 380 mL | C(C)(C)(C)O | C4H10O
reactant | tert-butanol | 350 mL | C(C)(C)(C)O | C4H10O
product | 9-(tert-butyl)-2,6-dichloro-9H-purine | 4.09 g, 40% yield | C(C)(C)(C)N1C2=NC(=NC(=C2N=C1)Cl)Cl | C9H10Cl2N4
